US06498169B1
Synthesis of 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxamide
Piperidine-4-carboxamide (301 mg) and 2-(4-chloro-3,5-dimethoxyphenyl) 4-chloromethyl pyridine (600 mg) were coupled in the same manner as described in Example 2 to give the title compound.

reactant | Piperidine-4-carboxamide | 301 mg | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | 2-(4-chloro-3,5-dimethoxyphenyl) 4-chloromethyl pyridine | 600 mg | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CCl)OC | C14H13Cl2NO2
product | 1-[[2-(4-Chloro-3,5-dimethoxyphenyl)pyridin-4-yl]methyl]piperidine-4-carboxamide | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CN1CCC(CC1)C(=O)N)OC | C20H24ClN3O3
